US08058447B2
Cyclobutyl 5-cyano-4-(5,6-difluoro-2-methyl-4-oxo-4H-chromen-8-yl)-2,6-dimethyl-1,4-dihydropyridine-3-carboxylate
A solution of 100 mg (0.45 mmol) of 5,6-difluoro-2-methyl-4-oxo-4H-chromene-8-carbaldehyde in 5 ml of 2-propanol is mixed with 46.9 mg (0.45 mmol) of sodium 1-cyanoprop-1-en-2-olate, 69.23 mg (0.45 mmol) of cyclobutyl 3-aminocrotonate and 0.04 ml (0.67 mmol) of acetic acid and stirred under reflux for 3 h. After cooling, the mixture is concentrated. The residue is taken up in dichloromethane and washed with water. The organic phase is dried over sodium sulfate and concentrated. The resulting residue is crystallized from diethyl ether. The yellow crystals are filtered off with suction and dried in a vacuum drying oven at 40° C. 104.4 mg (54.9% of theory) of the title compound are obtained.

reactant | 5,6-difluoro-2-methyl-4-oxo-4H-chromene-8-carbaldehyde | 0.45 mmol, 100 mg | FC1=C2C(C=C(OC2=C(C=C1F)C=O)C)=O | C11H6F2O3
reactant | sodium 1-cyanoprop-1-en-2-olate | 0.45 mmol, 46.9 mg | C(#N)C=C(C)[O-].[Na+]
reactant | cyclobutyl 3-aminocrotonate | 0.45 mmol, 69.23 mg | N\C(=C/C(=O)OC1CCC1)\C | C8H13NO2
reactant | acetic acid | 0.67 mmol, 0.04 ml | C(C)(=O)O | C2H4O2
solvent | 2-propanol | 5 ml | CC(C)O | C3H8O
product | Cyclobutyl 5-cyano-4-(5,6-difluoro-2-methyl-4-oxo-4H-chromen-8-yl)-2,6-dimethyl-1,4-dihydropyridine-3-carboxylate | C(#N)C=1C(C(=C(NC1C)C)C(=O)OC1CCC1)C=1C=C(C(=C2C(C=C(OC12)C)=O)F)F | C23H20F2N2O4
